US06908931B2
N-carbamoyl 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline.
A solution of 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (1.0598 g, 2.838 mmoles) and urea (1.704 g, 10 equiv.) was heated at reflux. After 3 hours, TLC indicated less than 15% conversion. More urea (15.5 g, 90 equiv.) was added. Reflux continued for 24 hours. The solvent was then evaporated and the residue dissolved in water (80 mL). A white solid formed. After 1 hour, the solid was collected by filtration, washed with water, and dried in vacuo overnight (1.0554 g, 89%). 1H-NMR (CDCl3) δ 2.49 (m, 1H), 2.69 (m, 2H), 2.90 (m, 1H), 3.37 (m, 1H), 3.82 (s, 3H), 3.86 (s, 3H), 3.89 (m, 2H), 4.05 (t, 1H), 4.38 (m, 1H), 6.41 (s, 1H), 6.60 (s, 1H), 7.29 (m, 10H). Mass spec. 417.3 (MH)+. Anal. Calc. for C26H28N2O3: C-74.98, H-6.78, N-6.73. Found: C-74.72, H-6.74, N-6.45.

reactant | 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 2.838 mmoles, 1.0598 g | C1(=CC=CC=C1)C(CC1NCCC2=CC(=C(C=C12)OC)OC)C1=CC=CC=C1 | C25H27NO2
reactant | urea | 1.704 g, 10 equiv. | NC(=O)N | CH4N2O
reactant | urea | 15.5 g, 90 equiv. | NC(=O)N | CH4N2O
product | N-carbamoyl 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | C(N)(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C26H28N2O3
